US07314936B2
A mixture of 1-(4-hydroxy-cyclohexyl)-ethanone (2.24 g, 1 eq.), toluene (160 mL), neopentylglycol (1.96 g, 1.2 eq.) and pTsOH (150 mg, 0.05 eq.) in a flask equipped with Dean-Stark apparatus was heated to reflux overnight. The mixture was cooled down to room temperature and contentrated. The crude product was purified by silic gel column chromatography (25% to 50% EtOAc/hexanes) to give 4-(2,5,5-trimethyl-[1,3]dioxan-2-yl)-cyclohexanol (2.23 g, 62%).

reactant | 1-(4-hydroxy-cyclohexyl)-ethanone | 2.24 g, 1 eq. | OC1CCC(CC1)C(C)=O | C8H14O2
reactant | neopentylglycol | 1.96 g, 1.2 eq. | CC(C)(CO)CO | C5H12O2
catalyst | pTsOH | 150 mg, 0.05 eq. | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(2,5,5-trimethyl-[1,3]dioxan-2-yl)-cyclohexanol | 2.23 g, 62% | CC1(OCC(CO1)(C)C)C1CCC(CC1)O | C13H24O3
